US03989724
A mixture of the optically active 7-hydroxy-1-dodecen-3-one, obtained as described in Example 4, 2.25 grams of 2-methylcyclopentane-1,3-dione, 50 milliliters of xylene, and 25 milliliters of acetic acid was refluxed for 11/2 hours under a nitrogen atmosphere. After evaporation under vacuum, the residue was extracted with cold benzene leaving 400 milliliters of unreacted methylcyclopentanedione as an insoluble residue. The benzene solution was then evaporated to yield 5.56 grams of optically active 3-pentyl-6aβ-methyl-1,2,3,5,6,6a-hexahydrocyclopenta]f][1]benzopyran-7(8H)-one. After chromatographing the crude product on alumina, followed by crystallization from methanol-water, the product melted at 60°-61°C., [α]D25 -166°.

reactant | 7-hydroxy-1-dodecen-3-one | OC(CCCC(C=C)=O)CCCCC | C12H22O2
reactant | 2-methylcyclopentane-1,3-dione | 2.25 grams | CC1C(CCC1=O)=O | C6H8O2
reactant | xylene | 50 milliliters | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetic acid | 25 milliliters | C(C)(=O)O | C2H4O2
product | [1]benzopyran-7(8H)-one | O1CC=CC2=C1CC(C=C2)=O | C9H8O2
